US09163020B2
See FIG. 23(a). In a 25 mL thermal vial was charged with 1-((5-fluoro-2,6-dimethylpyridin-3-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid (100 mg, 0.32 mmol) and HATU (146 mg, 0.38 mmol) were taken in NMP (4 mL) and stirred for 10 min at rt. Then 2-fluoroethanamine (20.13 mg, 0.32 mmol) and Triethyl amine (133 mL, 0.96 mmol) were added and stirred for 1 h at rt. The LCMS showed completion of the reaction. The reaction mixture was poured into water and extracted with chloroform. The organic layer was dried and concentrated and crude was submitted to reverse phase purification. The pure fractions were concentrated to get 1-((5-fluoro-2,6-dimethylpyridin-3-yl)methyl)-N-(2-fluoroethyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxamide (75 mg, 65.6%) as a solid. ES+MS m/z: 359 (M+1). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.37 (d, J=2.64 Hz, 3 H ) 2.42 (s, 6 H ) 3.66 (d, J=5.46 Hz, 1 H ) 3.75 (d, J=5.27 Hz, 1 H ) 4.49 (t, J=4.90 Hz, 1 H ) 4.65 (t, J=4.99 Hz, 1 H ) 5.52 (s, 2 H ) 6.85 (d, J=10.17 Hz, 1 H ) 7.86 (s, 1 H ) 8.15 (s, 1 H ) 8.34-8.46 (m, 1 H ) 8.89 (t, J=5.84 Hz, 1 H ).

reactant | 1-((5-fluoro-2,6-dimethylpyridin-3-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid | 0.32 mmol, 100 mg | FC=1C=C(C(=NC1C)C)CN1C=C(C2=NC=C(C=C21)C)C(=O)O | C17H16FN3O2
reactant | HATU | 0.38 mmol, 146 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-fluoroethanamine | 0.32 mmol, 20.13 mg | FCCN | C2H6FN
reactant | Triethyl amine | 0.96 mmol, 133 mL | C(C)N(CC)CC | C6H15N
solvent | NMP | 4 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 1-((5-fluoro-2,6-dimethylpyridin-3-yl)methyl)-N-(2-fluoroethyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | 75 mg, 65.6% | FC=1C=C(C(=NC1C)C)CN1C=C(C2=NC=C(C=C21)C)C(=O)NCCF | C19H20F2N4O
